US06433195B1
1-(4′-Fluorophenyl)-1,3-dihydroisobenzofuran-5-carbaldehyde (17.00 g) was dissolved in toluene (200 ml) and hydroxylamine hydrochloride (5.5 g) and triethylamine (8.0 g) were added. The mixture was stirred at 80-100° C. for 2 hr. The obtained triethylamine hydrochloride was filtered and the solvent was evaporated. Thereto was added acetic anhydride (36.5 g) and the mixture was stirred at 125-130° C. for 5 hr. The reaction mixture was poured into 10% aqueous sodium hydroxide solution (300 ml) and extracted twice with toluene (200 ml). The toluene layer was washed successively with 5% aqueous sodium hydroxide solution, water and saturated brine and dried over magnesium sulfate. Silica gel (5 g) was added and the mixture was thoroughly stirred and filtered. The solvent was evaporated to give crude 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-carbonitrile (14.2 g). This was recrystallized from a mixed solvent of ethanol/hexane to give 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-carbonitrile (9.52 g, 59.8%).

reactant | 1-(4′-Fluorophenyl)-1,3-dihydroisobenzofuran-5-carbaldehyde | 17.00 g | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)C=O | C15H11FO2
reactant | hydroxylamine hydrochloride | 5.5 g | Cl.NO
reactant | triethylamine | 8.0 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-carbonitrile | 9.52 g, 59.8% | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)C#N | C15H10FNO
